US05030736
2-Acetyl-5,6-dihydro-6-hydroxy-5,5-dimethyl-7-(4-nitrobenzamido)-7H-thieno[3,2-b]pyran
6-Acetoxy-2-acetyl-5,6-dihydro-5,5-dimethyl-7-(4-nitrobenzamido)-7H-thienopyran (0.60 g, 1.39 mmol) was treated with aqueous sodium hydroxide (1N, 1.5 mL, 1.5 mmol) in methanol (10 mL) at rt and stirred for 2 h. The resultant solution was poured into water and extracted with 5% isopropanol in dichloromethane. The organic phase was washed with water (3×) and dried over magnesium sulfate. The solvent was evaporated in vacuo and the resultant solid triturated in diethyl ether to give the product, 0.36 g (66%), as a pale yellow solid: mp 223°-225° C.; IR (KBr): 1647, 1601, 1530 and 1458 cm-1 ; MS: m/z 391 (MH+); 1H NMR (DMSO-d6): δ1.23(s, 3H), 1.42(s, 3H), 2.45(s, 3H), 3.84(m, 1H, simplifies to d, J=8.9 Hz with D2O), 5.01(m, 1H, simplifies to d, J=8.9 Hz, with D2O), 5.86(d, J=5.9 Hz, 1H, exchanges with D2O), 7.47(s, 1H), 8.14(d, J=8.8 Hz, 2H), 8.36(d, J=8.8 Hz, 2H) and 9.27(d, 1H, exchanges with D2O).

reactant | 6-Acetoxy-2-acetyl-5,6-dihydro-5,5-dimethyl-7-(4-nitrobenzamido)-7H-thienopyran | 1.39 mmol, 0.60 g | C(C)(=O)OC1C(OC2=C(C1NC(C1=CC=C(C=C1)[N+](=O)[O-])=O)SC(=C2)C(C)=O)(C)C | C20H20N2O7S
reactant | sodium hydroxide | 1.5 mmol, 1N, 1.5 mL | [OH-].[Na+]
reactant | water | O | H2O
reactant | KBr | [K+].[Br-]
solvent | methanol | 10 mL | CO | CH4O
product | 2-Acetyl-5,6-dihydro-6-hydroxy-5,5-dimethyl-7-(4-nitrobenzamido)-7H-thieno[3,2-b]pyran | C(C)(=O)C1=CC=2OC(C(C(C2S1)NC(C1=CC=C(C=C1)[N+](=O)[O-])=O)O)(C)C | C18H18N2O6S
